US08664241B2
A solution of 3-bromo-5-nitropyridin-4-amine (LVIII) (6 g, 26 mmol), pyridin-3-ylboronic acid (3.54 g, 29 mmol), 1 N Na2CO3 solution (78 ml) and 1,4-dioxane (150 mL) was degassed with argon thrice. Pd(PPh3)2Cl2 (927 mg, 5 mmol %) was added to the reaction and the solution was refluxed for 15 h until TLC showed the reaction was complete. The reaction was passed through a pad of Celite® and then concentrated under reduced pressure. The reaction mixture was concentrated and the residue was taken up in EtOAc. The organic extract was washed with water, dried and concentrated under vacuum. The crude product was purified on a silica gel column (100% EtOAc→>2:98 MeOH:DCM) to give 5-nitro-3,3′-bipyridin-4-amine (LIX) as a yellow solid (5 g, 23.1 mmol, 87% yield). 1H NMR (CDCl3, 500 MHz,) δ ppm 9.31 (s, 1H), 8.80-8.79 (m, 1H), 8.70 (s, 1H), 8.23 (s, 1H), 7.80-7.73 (m, 1H), 7.52-7.48 (m, 1H). ESIMS found C10H8N4O2 m/z 216.95 (M+H).

reactant | 3-bromo-5-nitropyridin-4-amine | 26 mmol, 6 g | BrC=1C=NC=C(C1N)[N+](=O)[O-] | C5H4BrN3O2
reactant | pyridin-3-ylboronic acid | 29 mmol, 3.54 g | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | Na2CO3 | 1 N, 78 ml | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | Pd(PPh3)2Cl2 | 5 mmol, 927 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | 1,4-dioxane | 150 mL | O1CCOCC1 | C4H8O2
product | 5-nitro-3,3′-bipyridin-4-amine | 23.1 mmol, 5 g, 87% yield | [N+](=O)([O-])C=1C(=C(C=NC1)C=1C=NC=CC1)N | C10H8N4O2
